US05750549
2-Isopropoxy-5-(4-fluorophenyl)-benzaldehyde
To a solution of 5-bromo-2-isopropoxy-benzaldehyde (504 mg, 2.07 mmol) in 1,2-dimethoxyethane (5 mL) were added tetrakis(triphenylphosphine)palladium(0) (87 mg, 0.075 mmol), 2M aqueous sodium carbonate (2.5 mL), and 4-fluorobenzeneboronic acid (396 mg, 2.83 mmol). The reaction mixture was stirred for 2 hours at reflux temperature, cooled, diluted with ethyl acetate, washed with water, saturated brine solution, dried (Na2SO4), and evaporated. The title compound was purified by flash chromatography eluting with 4% diethyl ether in hexane; yield 347 mg.

reactant | 5-bromo-2-isopropoxy-benzaldehyde | 2.07 mmol, 504 mg | BrC=1C=CC(=C(C=O)C1)OC(C)C | C10H11BrO2
reactant | sodium carbonate | 2M, 2.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluorobenzeneboronic acid | 2.83 mmol, 396 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.075 mmol, 87 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Isopropoxy-5-(4-fluorophenyl)-benzaldehyde | C(C)(C)OC1=C(C=O)C=C(C=C1)C1=CC=C(C=C1)F | C16H15FO2
